US09085555B2
C. (2S,4R)-2-Azidomethyl-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester
A mixture of (2S,4R)-4-fluoro-2-methanesulfonyloxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (3.3 g, 11.1 mmol) and NaN3 (721 mg, 11.1 mmol) in DMF (50 mL) was stirred at 75° C. under nitrogen overnight. The mixture was diluted with water and extracted with EtOAc (×3). The combined organic extracts were washed with water (×3), dried over Na2SO4, and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane/EtOAc 100/0 to 0/100) to give the desired material. 1H-NMR (400 MHz, DMSO): δ (ppm) 5.25 (d, 1H), 4.03 (m, 1H), 3.92-3.70 (m, 2H), 3.5-3.25 (m, 2H), 2.27 (m, 1H), 2.2-1.8 (m, 1H), 1.43 (s, 9H).

reactant | (2S,4R)-4-fluoro-2-methanesulfonyloxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 11.1 mmol, 3.3 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)F)COS(=O)(=O)C | C11H20FNO5S
reactant | NaN3 | 11.1 mmol, 721 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (2S,4R)-2-Azidomethyl-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)F)CN=[N+]=[N-] | C10H17FN4O2
